US05998433
d) Synthesis of 4-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-ylsulfonyl)phenylphenylmethanol
To a solution of 0.252 g (0.865 mmol) of 4-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-ylsulfonyl)benzaldehyde in 30 ml of tetrahydrofuran, phenylmagnesium bromide in tetrahydrofuran (prepared from 2.0 g of bromobenzene and 0.31 g of magnesium in 30 ml of tetrahydrofuran) was added at room temperature until the starting material disappeared on TLC. To the reaction mixture, aqueous ammonium chloride was added, followed by stirring and 3 extractions with ethyl acetate. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 2/1) to yield the desired product.

reactant | 4-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-ylsulfonyl)benzaldehyde | 0.865 mmol, 0.252 g | O1C=CC=2CN(CCC21)S(=O)(=O)C2=CC=C(C=O)C=C2 | C14H13NO4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | 30 ml, 2.0 g | O1CCCC1 | C4H8O
product | 4-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-ylsulfonyl)phenylphenylmethanol | O1C=CC=2CN(CCC21)S(=O)(=O)C2=CC=C(C=C2)C(O)C2=CC=CC=C2 | C20H19NO4S
